2198-03-29 09:54:00 Physician Attending Progress Note
Chief Complaint: Hypoxemic Respiratory Failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2198-3-28**] 01:24 PM
 ARTERIAL LINE - START [**2198-3-28**] 02:35 PM
 TRANSTHORACIC ECHO - At [**2198-3-28**] 02:52 PM
   bubbel scan
 ULTRASOUND - At [**2198-3-28**] 05:00 PM
 NASAL SWAB - At [**2198-3-28**] 05:40 PM
 MULTI LUMEN - START [**2198-3-28**] 07:00 PM
   feNa-low consistent with pre-renal azotemia
   Patient with shunt physiology and ECHO with PFO seen with R->L flow,
   particularly during cough or increase in right sided pressures or with
   decrease in left sided pressures
   Cardiology eval suggesting cathterization with evaluate for R->L shunt
   TLC placed in left IJ without incident
   PLT given this morning before paracentesis--SaO2 increased to 92%
   following transfusion
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2198-3-28**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-3-29**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Norepinephrine - 0.18 mcg/Kg/min
   Other ICU medications:
   Insulin - Humalog - [**2198-3-28**] 10:09 PM
   Insulin - Regular - [**2198-3-29**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Hypothermia
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2198-3-29**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.5
C (95.9
   HR: 75 (57 - 79) bpm
   BP: 141/62(90) {76/37(49) - 173/76(111)} mmHg
   RR: 20 (10 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
           Total In:
                                                                  1,888 mL
                                                                  2,693 mL
   PO:
           TF:
   IVF:
                                                                  1,718 mL
                                                                  1,528 mL
   Blood products:
   965 mL
   Total out:
                                                                  1,440 mL
                                                                    515 mL
   Urine:
                                                                  1,190 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    448 mL
                                                                  2,178 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 890 (768 - 956) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 12
   PEEP: 0 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 6 cmH2O
   Plateau: 25 cmH2O
   SpO2: 95%
   ABG: 7.46/32/52/23/0
   Ve: 10.9 L/min
   PaO2 / FiO2: 52
   Physical Examination
   General Appearance: Overweight / Obese
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   47 K/uL
   291 mg/dL
   1.4 mg/dL
   23 mEq/L
   4.7 mEq/L
   65 mg/dL
   103 mEq/L
   133 mEq/L
   25.7 %
   12.5 K/uL
        [image002.jpg]
                             [**2198-3-28**]  01:28 AM
                             [**2198-3-28**]  07:08 AM
                             [**2198-3-28**]  09:29 AM
                             [**2198-3-28**]  01:47 PM
                             [**2198-3-28**]  05:26 PM
                             [**2198-3-28**]  05:46 PM
                             [**2198-3-28**]  08:45 PM
                             [**2198-3-29**]  03:34 AM
                             [**2198-3-29**]  04:04 AM
                             [**2198-3-29**]  05:00 AM
   WBC
   17.5
   12.5
   Hct
   25.9
   25.7
   Plt
   35
   72
   47
   Cr
   1.4
   1.4
   TCO2
   23
   25
   23
   25
   24
   22
   23
   Glucose
   177
   291
   Other labs: PT / PTT / INR:20.2/37.8/1.9, ALT / AST:71/73, Alk Phos / T
   Bili:80/5.6, Amylase / Lipase:71/, Differential-Neuts:97.1 %, Lymph:1.4
   %, Mono:1.3 %, Eos:0.2 %, Lactic Acid:2.0 mmol/L, Albumin:2.3 g/dL,
   LDH:372 IU/L, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   65 yo male with history of cirrhosis and now with persistent and
   significant hypoxemia with concern for shunt physiology--both
   intrapulmonary and extrapulmonary with ECHO showing clear evidence of
   R->L flow during echo with increases in Right sided pressures.  He has
   had continued dynamic changes with left sided heart pressure which do
   argue strongly for significant intracardiac shunt as the dominant
   physiology here and hepato-pulmonary syndrome simply would not be as
   dynamic with small changes.  He may have porto-pulmonary hypertension
   driving some of the R->L shunt and progression here may explain the
   mainfestions now being more severe in the setting of chronic and
   previously insignificant PFO.
   1)Respiratory Failure-Hypoxemia
Diffuse causes have been postulated
   with shunt physiology clearly defined.
   -Right heart cath for
Shunt Run
 to evaluate intra-cardiac shunt as
   ongoing insults for correction
   -Will need CTA today for evaluate of possible PE and evaluation of the
   lower lobe infiltrate and possible infarct
   -Will add PEEP today to maintain patent airspaces
   -Continue ABX
   -Will need measurement of PA pressures
   -For COPD is on prednisone taper and weaning today with nebs continuing
   2)Hypotension-Likely consistent with sepsis and has possible pulmonary
   source given LLL infiltrate and hypothermia.  He has worsening of R->L
   shunt with decrease in systemic pressure so will wean today with
   careful attention to any changes in SaO2
   -Wean levophed today
   -Will follow up culture results
   -Will be interested to see CO as defined by swan ganz
   3)Cirrhosis-
   -Paracentesis today
   -Continue with lactulose/Rifaxamin
   -Appreciate hepatology input
   4)Thrombocytopenia-
   -Platelets replaced
   -[**Month (only) 8**] be splenic sequestration in the setting of cirrhosis
   -As time course of decline not clearly defined will have to follow up
   in HIT testing
   5)Renal Failure
   -Remains at cr-1.4
   ICU Care
   Nutrition: Tube Feeds to start
   Glycemic Control:
   Lines:
   PICC Line - [**2198-3-28**] 01:20 AM
   20 Gauge - [**2198-3-28**] 01:22 AM
   Arterial Line - [**2198-3-28**] 02:35 PM
   Multi Lumen - [**2198-3-28**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 65 minutes

2198-03-30 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Diagnostic Para: No evidence SBP. SAAG indicates portal HTN. 6%
   Mesothelial cells.
   - CT Chest: (Prelim) No PE but suboptimal study. LLL consolidation (PNA
   vs. Aspiration).
   - CT Head: (Prelim) No acute intracranial process. Low attenuation
   perivascular white matter changes (likely due to chronic microvasc dz)
   - Right heart cath: PFO not significant per cardiology. No
   interventions made.
   -Guaiac positive
   -Acute Hct, Plt drop- gave 3 units [** **] and 2 units plts.
   -Stat CT abd/pelvis for ? RP bleed - prelim: no bleeding.
   Allergies:
   No Known Drug Allergies
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2198-3-29**] 07:29 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-3-30**] 04:04 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2198-3-30**] 06:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-30**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.4
C (95.8
   HR: 58 (52 - 79) bpm
   BP: 153/61(90) {120/48(69) - 164/68(101)} mmHg
   RR: 8 (8 - 20) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 63 Inch
           Total In:
                                                                  5,172 mL
                                                                    675 mL
   PO:
           TF:
           62 mL
   IVF:
                                                                  3,709 mL
                                                                    348 mL
   Blood products:
                                                                  1,263 mL
                                                                    265 mL
   Total out:
                                                                  2,055 mL
                                                                    750 mL
   Urine:
                                                                  2,055 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,117 mL
                                                                    -75 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 121 (121 - 890) mL
   PS : 5 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 10 cmH2O
   SpO2: 94%
   ABG: 7.48/39/65/30/5
   Ve: 7.3 L/min
   PaO2 / FiO2: 65
   Physical Examination
   GEN: Intubated, sedated
   HEENT: Sclera anicteric, dry MM, oropharynx clear
   LUNGS: CTAB
   CV: Regular rate and rhythm. Systolic murmur at aortic site.
   Abdomen:  Soft, non-tender.  Questionable ascites. Unable to palpate
   hepatosplenomegaly
   EXT: Warm, well perfused, 1+ pulses, no clubbing, cyanosis or edema,
   hairless legs
   SKIN: Ecchymoses throughout UE and chest
   Labs / Radiology
   9 K/uL
   6.5 g/dL
   182 mg/dL
   1.1 mg/dL
   30 mEq/L
   4.3 mEq/L
   47 mg/dL
   103 mEq/L
   137 mEq/L
   18.9 %
   10.6 K/uL
        [image002.jpg]
                             [**2198-3-28**]  05:26 PM
                             [**2198-3-28**]  05:46 PM
                             [**2198-3-28**]  08:45 PM
                             [**2198-3-29**]  03:34 AM
                             [**2198-3-29**]  04:04 AM
                             [**2198-3-29**]  05:00 AM
                             [**2198-3-29**]  04:28 PM
                             [**2198-3-29**]  08:36 PM
                             [**2198-3-30**]  03:11 AM
                             [**2198-3-30**]  04:03 AM
   WBC
   17.5
   12.5
   10.6
   Hct
   25.9
   25.7
   18.9
   Plt
   35
   72
   47
   9
   Cr
   1.4
   1.4
   1.1
   TCO2
   24
   22
   23
   31
   33
   30
   Glucose
   177
   291
   182
   Other labs: PT / PTT / INR:20.4/38.5/1.9, ALT / AST:58/74, Alk Phos / T
   Bili:72/6.3, Amylase / Lipase:71/, Differential-Neuts:97.1 %, Lymph:1.4
   %, Mono:1.3 %, Eos:0.2 %, Lactic Acid:2.0 mmol/L, Albumin:2.3 g/dL,
   LDH:378 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   65-year-old man with known alcoholic cirrhosis, COPD admitted to an OSH
   with SOB now being transferred for further evaluation of hypoxia
   1. Hypoxia: Multiple processes could be contributing: Cardiac shunt,
   PE, intrinsic lung disease, pneumonia, and HPS.  Patient
s O2 sats now
   >90% by keeping MAPs > 70 with levophed and blood products.  MAP
   improves with platelets and FFP infusion.  Suggests that shunting may
   be playing a significant role.  To address these different possible
   etiologies:
    - Cardiac shunt
 evidence for this with PFO on TTE on [**3-28**]. Right
   heart catheterization showed R to L shunt, probable PFO and
   hepatopulmonary syndrome contributing
    - PE
 possible given patient
s prolonged OSH course.  Have deferred
   starting heparin given pending HIT Ab panel.  Prelim read on chest CT
   is no PE in central vessels, although limited study.
    - Intrinsic lung disease
 history of IPF from OSH notes, but does not
   appear so based on CXR.  Path from OSH biopsy now in [**State 5354**] and
   unobtainable for several days.  Does not appear to be significant IPF
   on chest CT.
    - Infection / PNA - has LLL infiltrate on CXR though cannot account
   for all of the patient
s hypoxia.
             - Cont. vanco/zosyn for HAP,
             - check induced sputum for PCP given [**Name9 (PRE) 4849**] steroid use.
             - Given torulopsis glabrata on bronchial washings, consider
   adding caspo or vori if decompensates
    - HPS
 possible given underlying cirrhosis.  Will f/u hepatology recs
   as below.
   - Will plan on Nuc Med study to further quantify HPS
   - Plan to extubate after Nuc Med study
   2. Hypotension: Patient requiring levophed for blood pressure support
   and to help maintain O2 sats.  Underlying etiology unclear but may
   include sedation, shunt physiology, infection, and underlying liver
   disease.
   - wean pressors as tolerated
   - w/u of other problems as above and below
   - [**Name (NI) **] improving intravascular volume
   3. Cirrhosis: Per OSH notes, patient with alcoholic cirrhosis.  Has low
   albumin and somewhat elevated INR.  Also with splenomegaly and
   thrombocytopenia.  At this time, appears mildy encephalopathic though
   not clear if this if hepatic in origin.  Patient with tender abdomen.
   Diagnostic para: c/w portal HTN, no SBP
   - lactulose/rifaximin
   - f/u hepatology recs: no new recs
   - Add direct/indirect bilirubin to labs
   4. Anemia: Likely multifactorial including marrow suppressions (EtOH),
   GIB (guaiac + at OSH) and possible deficiencies.  Hct 42 on initial
   presentation to OSH and between 38 and 40 until [**3-18**].  Unclear why the
   precipitous drop recently.  Retic count elevated (6.6), iron low, B12 &
   folate sufficient. DDx includes DIC, TTP but not likely HIT as neg x2
   - iron supplementation
   - guaiac pos stools, only on prophylactic anticoagulation
   - F/u bilirubin breakdown and add peripheral smear
   5. Altered mental status: Likely multifactorial with hyponatremia,
   hepatic enceph, hypoxia, infection, etc contributing.
   - Treat possible causes individually
   - CT head
   6. Hyponatremia: Improved from nadir of 129. Will trend.
   7. Renal failure: Baseline from OSH is ~1.0, now improved to 1.1.
   Likely elevated BUN/Cr ratio which may represent prerenal state and
   GIB.
   - Follow and try to determine baseline status
   8. Diarrhea: Was being treated as c.diff though toxin negative at OSH
   and again here. [**Month (only) 8**] have also been due to lactulose.
   - C. diff neg x1, with one sample pending
   - Hold on PO vanco or flagyl unless decompensates or toxin returns
   positive
   9. COPD: Initially treated as primary diagnosis at time of admission to
   OSH. On steroid taper at OSH and appears to have received 50mg on day
   of transfer.
   - Continue taper
   - Albuterol/atrovent
   FEN: Cont TF, [**Month (only) **] and Plts as needed
   PPX: Pneumoboots; PPI
   FULL CODE (in chart at OSH)
   HCP: [**Name (NI) 82**] [**Name (NI) 1015**] [**Telephone/Fax (1) 5330**]
   Dispo: ICU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2198-3-28**] 01:20 AM
   Arterial Line - [**2198-3-28**] 02:35 PM
   Multi Lumen - [**2198-3-28**] 07:00 PM
   18 Gauge - [**2198-3-29**] 02:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2198-03-30 10:34:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure-Hypoxemic
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PARACENTESIS - At [**2198-3-29**] 09:45 AM
 CARDIAC CATH - At [**2198-3-29**] 03:00 PM
   Para-no evidence of SBP
   CT CHEST--no central PE seen
   CT HEAD--microvascular disease
   RHC--PFO seen and no R-->L shunt with CVP=16, PCWP=18, PA=37/18, CO=9,
   SVR=low
   Pt with acute anemia overnight--he had HCT decrase by 9 points and had
   CT abdomen to look for RP bleed and not seen
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Thrombocytopeni
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2198-3-30**] 04:04 AM
   Vancomycin - [**2198-3-30**] 09:03 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2198-3-30**] 06:22 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2198-3-30**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.5
C (95.9
   HR: 63 (52 - 79) bpm
   BP: 119/51(71) {119/48(69) - 164/68(101)} mmHg
   RR: 9 (8 - 20) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
           Total In:
                                                                  5,172 mL
                                                                  1,528 mL
   PO:
           TF:
           62 mL
   IVF:
                                                                  3,709 mL
                                                                    628 mL
   Blood products:
                                                                  1,263 mL
                                                                    838 mL
   Total out:
                                                                  2,055 mL
                                                                    990 mL
   Urine:
                                                                  2,055 mL
                                                                    990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,117 mL
                                                                    538 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 850 (121 - 850) mL
   PS : 5 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 11 cmH2O
   SpO2: 92%
   ABG: 7.48/39/65/30/5
   Ve: 8.5 L/min
   PaO2 / FiO2: 65
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed, not organized
   Labs / Radiology
   6.8 g/dL
   28 K/uL
   182 mg/dL
   1.1 mg/dL
   30 mEq/L
   4.3 mEq/L
   47 mg/dL
   103 mEq/L
   137 mEq/L
   19.7 %
   10.2 K/uL
        [image002.jpg]
                             [**2198-3-28**]  05:46 PM
                             [**2198-3-28**]  08:45 PM
                             [**2198-3-29**]  03:34 AM
                             [**2198-3-29**]  04:04 AM
                             [**2198-3-29**]  05:00 AM
                             [**2198-3-29**]  04:28 PM
                             [**2198-3-29**]  08:36 PM
                             [**2198-3-30**]  03:11 AM
                             [**2198-3-30**]  04:03 AM
                             [**2198-3-30**]  07:51 AM
   WBC
   17.5
   12.5
   10.6
   10.2
   Hct
   25.9
   25.7
   18.9
   19.7
   Plt
   35
   72
   47
   9
   28
   Cr
   1.4
   1.4
   1.1
   TCO2
   22
   23
   31
   33
   30
   Glucose
   177
   291
   182
   Other labs: PT / PTT / INR:20.4/38.5/1.9, ALT / AST:58/74, Alk Phos / T
   Bili:72/6.4, Amylase / Lipase:71/, Differential-Neuts:97.1 %, Lymph:1.4
   %, Mono:1.3 %, Eos:0.2 %, Fibrinogen:164 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:2.3 g/dL, LDH:378 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.1
   mg/dL
   Fluid analysis / Other labs: 7.48/39/65--A/C 650, FIO2=1.0
   Imaging: CXR-Lines and tubes in good position with mild improvement in
   LLL opacity
   Assessment and Plan
   65 yo male with cirrhosis now admit with hypoxemic respiratory failure
   in the setting of what appears to be left sided pneumonia, no evidence
   of PE, PFO but no active R->L shunt at catheterization yesterday and
   concern for persistent hepatopulmonary syndrome but with limited
   capacity to evaluate further.  What we are left with is a significant
   persistent oxygen requirement and this is driven by intrapulmonary
   shunt in large part with
pneumonia, atelectasis and some component of
   hepato-pulmonary syndrome.  The pneumonia and atelectasis may well be
   dynamic and will work to optimize status as we move to try extubation.
   1)Hypoxemic Respiratory Failure-  Secondary to above
   -Will perform bronch today to clear area of collapse and infection as
   best as possible to allow minimization of shunt fraction
   -Zosyn/Vanco to continue
   -Will maintain PSV support now and keep PEEP=[**5-11**]
   -Will pursue intra-pulmonary shunt study with nuclear scan to attempt
   to quantify extent of intrapulmonary shunt
   -Would hope to move to extubation today if at all possible as primary
   requirement is oxygen support and FIO2 can be adjusted with high flow
   once testing has been safely concluded.
   2) ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)-
   -Will look to hemolysis
   -no source of bleed clearly seen
   -Did have paracentesis yesterday and there is concern for IP bleeding
   but not suggested on CT scan this am which did not show RP bleeding
   3)Cirrhosis-
   -Lactulose/Rifax for MS
   [**Name13 (STitle) 5378**] up OB pos stools
   -Ascites without evidence of infection
   ICU Care
   Nutrition: TF
s to start
   Glycemic Control:
   Lines:
   PICC Line - [**2198-3-28**] 01:20 AM
   Arterial Line - [**2198-3-28**] 02:35 PM
   Multi Lumen - [**2198-3-28**] 07:00 PM
   18 Gauge - [**2198-3-29**] 02:56 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2198-03-31 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Cards recs: If symptomatic after extubated and off pressors, will
   consider repeat right heart cath
   - Heme consulted for thrombocytopenia - likely drug reaction - D/c
   possible offending antibiotics, check HIV, transfuse to > 10
   - Nuc Med study showed R to L shunt, likely performed while PFO not
   playing a large role, so adds additional evidence for large
   intrapulmonary shunt
   - Plts dropped - received 8 units plts in 24 hrs
   - D/c'd vancomycin - concern for drug-induced thrombocytopenia
   Allergies:
   No Known Drug Allergies
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2198-3-30**] 07:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-3-31**] 03:11 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2198-3-30**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-31**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.1
   HR: 65 (61 - 75) bpm
   BP: 126/51(73) {114/48(68) - 160/67(99)} mmHg
   RR: 11 (8 - 20) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
           Total In:
                                                                  3,444 mL
                                                                  1,124 mL
   PO:
           TF:
                                                                    200 mL
                                                                    263 mL
   IVF:
                                                                  1,374 mL
                                                                    281 mL
   Blood products:
                                                                  1,679 mL
                                                                    580 mL
   Total out:
                                                                  3,255 mL
                                                                  1,480 mL
   Urine:
                                                                  3,255 mL
                                                                  1,480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    189 mL
                                                                   -356 mL
                                     + 3.6 L LOS
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 564 (564 - 850) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 80%
   PIP: 11 cmH2O
   SpO2: 93%
   ABG: 7.46/43/63/32 @ 0448 am
   Ve: 9.6 L/min
   PaO2 / FiO2: 79
   Physical Examination
   GEN: Intubated, sedated
   HEENT: Sclera icteric, dry MM, oropharynx clear
   LUNGS: CTAB
   CV: Regular rate and rhythm. Systolic murmur at aortic site.
   Abdomen:  Soft, non-tender.  Questionable ascites. Unable to palpate
   hepatosplenomegaly
   EXT: Warm, well perfused, 1+ pulses, no clubbing, cyanosis or edema,
   hairless legs
   SKIN: Ecchymoses throughout UE and chest
   Labs / Radiology
   15 K/uL
   7.9 g/dL
   189 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.2 mEq/L
   40 mg/dL
   104 mEq/L
   138 mEq/L
   22.0 %
   5.0 K/uL
        [image002.jpg]
                             [**2198-3-30**]  12:21 PM
                             [**2198-3-30**]  02:08 PM
                             [**2198-3-30**]  05:15 PM
                             [**2198-3-30**]  05:38 PM
                             [**2198-3-30**]  06:32 PM
                             [**2198-3-30**]  09:53 PM
                             [**2198-3-31**]  12:30 AM
                             [**2198-3-31**]  02:19 AM
                             [**2198-3-31**]  04:35 AM
                             [**2198-3-31**]  04:48 AM
   WBC
   7.5
   5.0
   Hct
   24.1
   23.0
   22.0
   Plt
   26
   13
   10
   5
   15
   Cr
   1.1
   TCO2
   28
   30
   29
   32
   Glucose
   189
   Other labs: PT / PTT / INR:18.4/39.3/1.7, Ca++:8.9 mg/dL, Mg++:2.0
   mg/dL, PO4:2.6 mg/dL
   Peritoneal fluid 2+ polys, no microbes on gram stain & no growth to
   date.
   C. diff neg x 2
   Shunt study: There is somewhat heterogenous pulmonary perfusion but
   without segmental or large subsegmental defects. There is tracer
   activity in the liver, spleen, kidneys, brain and thyroid gland, which
   is abnormal and indicates the presence of a right-to-left shunt.
   IMPRESSION: Study is consistent with the presence of a right-to-left
   shunt.
   CT abd/pelvis: 1. No evidence for retroperitoneal or other hematoma. 2.
   Moderate simple abdominal and pelvic ascites. 3. Nodular liver
   consistent with cirrhosis. 4. Diffuse pancreatic calcifications with
   atrophy suggestive of chronic pancreatitis. 5. Bilateral avascular
   necrosis of the femoral heads without collapse. 6. Bibasilar
   consolidations concerning for aspiration pneumonia. 7. Nonobstructive
   renal calculi with bilateral renal cysts. 8. Cholelithiasis without
   cholecystitis.
   Assessment and Plan
   65-year-old man with known alcoholic cirrhosis, COPD admitted to an OSH
   with SOB now being transferred for further evaluation of hypoxia
   1. Hypoxia: Initially felt that multiple processes could be
   contributing: Cardiac shunt, PE, intrinsic lung disease, pneumonia, and
   HPS.  Initially got O2 sats >90% by keeping MAPs > 70 with levophed and
   blood products.  MAP improves with platelets and FFP infusion.
   Suggests that shunting may be playing a significant role.  Hypoxia Most
   likely HPS with some cardiac shunting and L-sided PNA.  To address
   these different possible etiologies:
    - Cardiac shunt
 evidence for this with PFO on TTE on [**3-28**]. Right
   heart catheterization showed R to L shunt, probable PFO and
   hepatopulmonary syndrome contributing
   - HPS
 likely given underlying cirrhosis and suggested by shunt
   study.  Will f/u hepatology recs as below.  Consider starting
   pentyoxyphylline.
    - PE
 possible given patient
s prolonged OSH course.  Have deferred
   starting heparin given pending HIT Ab panel.  Prelim read on chest CT
   is no PE in central vessels, although limited study.
    - Intrinsic lung disease
 history of IPF from OSH notes, but does not
   appear so based on CXR.  Path from OSH biopsy now in [**State 5354**] and
   unobtainable for several days.  Does not appear to be significant IPF
   on chest CT.
    - Infection / PNA - has LLL infiltrate on CXR though cannot account
   for all of the patient
s hypoxia.
             - Cont. vanco/zosyn for HAP,
             - check induced sputum for PCP given [**Name9 (PRE) 4849**] steroid use.
             - Given torulopsis glabrata on bronchial washings, consider
   adding caspo or vori if decompensates
   - Patient still on FIO2 80% and not waking up this morning.  O2 sats
   still upper 80s to low 90s, not yet ready for extubation.
   2. Hypotension: Resolving.  Patient initially required levophed for
   blood pressure support and to help maintain O2 sats.  Underlying
   etiology unclear but may include sedation, shunt physiology, infection,
   and underlying liver disease.  Levophed now weaned off.
   - w/u of other problems as above and below
   - [**Name (NI) **] improving intravascular volume
   3. Thrombocytopenia: Unable to increase platelets despite 8 units in 24
   hours (5 since 8 pm last night).  HIT Ab neg here and at OSH.  Smear
   unremarkable.  DIC labs negative.  Patient is already on steroids if
   ITP is contributing.  Hematology is following, their assistance is
   appreciated.
   - Vancomycin was stopped [**3-30**].  Will stop zosyn [**3-31**] as possible
   medication effect could be contributing.
   - change PPI to Ranitidine
   - f/u heme recs
   4. Cirrhosis: Per OSH notes, patient with alcoholic cirrhosis.  Has low
   albumin and somewhat elevated INR.  Also with splenomegaly and
   thrombocytopenia.  At this time, appears mildy encephalopathic though
   not clear if this if hepatic in origin.  Patient with tender abdomen.
   Diagnostic para: c/w portal HTN, no SBP
   - lactulose/rifaximin
   - f/u hepatology recs: no new recs
   - Add direct/indirect bilirubin to labs
   5. Anemia: Likely multifactorial including marrow suppressions (EtOH),
   GIB (guaiac + at OSH) and possible deficiencies.  Hct 42 on initial
   presentation to OSH and between 38 and 40 until [**3-18**].  Unclear why the
   precipitous drop recently.  Retic count elevated (6.6), iron low, B12 &
   folate sufficient. DIC labs negative.  HIT as neg x2.   Peripheral
   smear not suggestive.
   - iron supplementation
   - guaiac pos stools, only on prophylactic anticoagulation
   - F/u bilirubin breakdown
   6. Altered mental status: Likely multifactorial with hyponatremia,
   hepatic enceph, hypoxia, infection, etc contributing.
   - Treat possible causes individually
   - CT head
   7. Hyponatremia: Improved from nadir of 129. Will trend.
   8. Renal failure: Baseline from OSH is ~1.0, now improved to 1.1.
   Likely elevated BUN/Cr ratio which may represent prerenal state and
   GIB.
   - Follow and try to determine baseline status
   9. Diarrhea: Was being treated as c.diff though toxin negative at OSH
   and again here x2. [**Month (only) 8**] have also been due to lactulose.
   - Hold on PO vanco or flagyl unless decompensates then resend for C.
   diff.
   10. COPD: Initially treated as primary diagnosis at time of admission
   to OSH. On steroid taper at OSH and appears to have received 50mg on
   day of transfer.
   - Continue taper
   - Albuterol/atrovent
   FEN: Cont TF, [**Month (only) **] and Plts as needed
   PPX: Pneumoboots; Ranitidine
   FULL CODE (in chart at OSH)
   HCP: [**Name (NI) 82**] [**Name (NI) 1015**] [**Telephone/Fax (1) 5330**]
   Dispo: ICU for now.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2198-3-31**] 03:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2198-3-28**] 01:20 AM
   Arterial Line - [**2198-3-28**] 02:35 PM
   Multi Lumen - [**2198-3-28**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2198-03-31 11:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yr old EtOH cirrhosis, COPD, from OSH after 20 d course of
   progressive resp failure
   24 Hour Events:
   - cardiology input appreciated, they will consider repair of PFO once
   extubated
   - hematology input also appreciated, regarding thrombocytopenia, keep
   plt>50
   - vancomycin discontinued
   - nuc med study shows R to L shunt
   - transfused 8 units of platelets
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2198-3-30**] 07:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-3-31**] 03:11 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2198-3-30**] 09PM
   Pantoprazole (Protonix) - [**2198-3-31**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-31**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.6
   HR: 66 (61 - 75) bpm
   BP: 150/62(88) {114/48(68) - 158/67(99)} mmHg
   RR: 14 (9 - 20) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
           Total In:
                                                                  3,444 mL
                                                                  1,442 mL
   PO:
           TF:
                                                                    200 mL
                                                                    342 mL
   IVF:
                                                                  1,374 mL
                                                                    316 mL
   Blood products:
                                                                  1,679 mL
                                                                    704 mL
   Total out:
                                                                  3,255 mL
                                                                  2,695 mL
   Urine:
                                                                  3,255 mL
                                                                  1,770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    189 mL
                                                                 -1,253 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 920 (564 - 920) mL
   PS : 5 cmH2O
   RR (Spontaneous): 10
   PEEP: 0 cmH2O
   FiO2: 80%
   PIP: 10 cmH2O
   SpO2: 90%
   ABG: 7.46/43/63/27/5 at 5am on PS 5/5
   Ve: 9.2 L/min
   PaO2 / FiO2: 79
   Physical Examination
   Head, Ears, Nose, Throat: jaundice Endotracheal tube, OG tube
   Cardiovascular: (Murmur: Systolic), SEM at LSB
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), Respiratory / Chest: coarse sounds, Abdominal: Soft
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, Neurologic: sedated
   Labs / Radiology
 CXR reviewed, ETT slightly high, new left hilar
   fullness
   7.9 g/dL
   15 K/uL
   189 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.2 mEq/L
   40 mg/dL
   104 mEq/L
   138 mEq/L
   22.0 %
   5.0 K/uL
         [image002.jpg]
                             [**2198-3-30**]  12:21 PM
                             [**2198-3-30**]  02:08 PM
                             [**2198-3-30**]  05:15 PM
                             [**2198-3-30**]  05:38 PM
                             [**2198-3-30**]  06:32 PM
                             [**2198-3-30**]  09:53 PM
                             [**2198-3-31**]  12:30 AM
                             [**2198-3-31**]  02:19 AM
                             [**2198-3-31**]  04:35 AM
                             [**2198-3-31**]  04:48 AM
   WBC
   7.5
   5.0
   Hct
   24.1
   23.0
   22.0
   Plt
   26
   13
   10
   5
   15
   Cr
   1.1
   TCO2
   28
   30
   29
   32
   Glucose
   189
   Other labs: PT / PTT / INR:18.4/39.3/1.7, ALT / AST:58/74, Alk Phos / T
   Bili:72/6.4, Amylase / Lipase:71/, Differential-Neuts:97.1 %, Lymph:1.4
   %, Mono:1.3 %, Eos:0.2 %, Fibrinogen:164 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:2.3 g/dL, LDH:378 IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.6
   mg/dL
   Fluid analysis / Other labs: HIT negative x 2
   Assessment and Plan
   65 yo male with cirrhosis now admit with hypoxemic respiratory failure
   in the setting of what appears to be left sided pneumonia, no evidence
   of PE, PFO but no active R->L shunt at catheterization yesterday and
   concern for persistent hepatopulmonary syndrome but with limited
   capacity to evaluate further.  What we are left with is a significant
   persistent oxygen requirement and this is driven by intrapulmonary
   shunt in large part with pneumonia, atelectasis and some component of
   hepato-pulmonary syndrome.  The pneumonia and atelectasis may well be
   dynamic and will work to optimize status as we move to try extubation.
   1)Hypoxemic Respiratory Failure-  Secondary to above
   - sats decreased to 86% on PS 0/5 on 80% FiO2.
   - Zosyn to continue, off vanc due to thrombocytopenia
   - Will maintain PSV support now and keep sats>89%
   - new pulm infiltrates may be CHF with platelet transfusion, new
   infection, hemorrhage
    2) Acute blood loss anemia
   - No evidence of hemolysis, checking repeat smear
   - no source of bleed clearly seen
   - Did have paracentesis yesterday and there is concern for IP bleeding
   but not suggested on CT scan this am which did not show RP bleeding
   3) Acute thrombocytopenia
   - refractory to transfusions, ? ITP vs HIT unlikely vs leukemia
   - will ask hematology to reassess
   - on steroids for COPD but may require higher doses
   - will d/c Zosyn as possible culprit
   - switch PPI to H2 blocker
   4) Cirrhosis-
   -Lactulose/Rifax for MS
   [**Name13 (STitle) 5378**] up OB pos stools
   - Ascites without evidence of infection
   ICU Care
   Nutrition: Nutren
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2198-3-28**] 01:20 AM
   Arterial Line - [**2198-3-28**] 02:35 PM
   Multi Lumen - [**2198-3-28**] 07:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2198-04-01 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Heme recs: likely some destructive, Ab-mediated process; cont.
   transfusing ABO-matched plt (type B); will check HLA match on monday;
   check DIC labs & coags; no need to increase steroids
   - ETT advanced
   - sputum sample sent
   - Received 1 unit PRBCs and 5 units platelets in 24 hours
   - Overnight vent settings were adjusted to try to increase PaO2 which
   dropped to the 40s. No success with increasing PEEP, placing on CMV, or
   giving lasix.
   - lasix 20 mg IV x 1 for low PaO2 and ?pulm edema on CXR
   - This morning patient acutely decompensated following suctioning with
   pink frothy sputum and dropping his O2 sats from the upper 80s to
   82-83%.  Sedation increased as patient was coughing and fighting the
   vent.  SBP subsequently dropped.
   Allergies:
   No Known Drug Allergies
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2198-3-30**] 07:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-3-31**] 03:11 AM
   Infusions:
   Fentanyl - 35 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2198-3-31**] 08:00 AM
   Furosemide (Lasix) - [**2198-4-1**] 03:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-1**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 91 (66 - 91) bpm
   BP: 129/53(77) {128/50(73) - 159/67(97)} mmHg
   RR: 21 (10 - 22) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
           Total In:
                                                                  3,166 mL
                                                                  1,172 mL
   PO:
           TF:
                                                                    932 mL
                                                                    289 mL
   IVF:
                                                                    533 mL
                                                                    113 mL
   Blood products:
                                                                  1,162 mL
                                                                    771 mL
   Total out:
                                                                  3,385 mL
                                                                    930 mL
   Urine:
                                                                  2,460 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -219 mL
                                                                    242 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Spontaneous): 830 (830 - 952) mL
   PC : 10 cmH2O
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%, Sao2 < 90%
   PIP: 16 cmH2O
   SpO2: 90%
   ABG: 7.49/33/45/29/2
   Ve: 16.5 L/min
   PaO2 / FiO2: 45
   Physical Examination
   GEN: Intubated, sedated, does not follow commands
   HEENT: Sclera icteric, dry MM, oropharynx clear
   LUNGS: coarse BS bilaterally
   CV: Tachycardic. Systolic murmur at aortic site.
   Abdomen:  Soft, non-tender.  Questionable ascites. Unable to palpate
   hepatosplenomegaly
   EXT: Warm, well perfused, 1+ pulses, no clubbing, cyanosis or edema,
   hairless legs
   SKIN: Ecchymoses throughout UE and chest
   Labs / Radiology
   5 K/uL
   8.6 g/dL
   158 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.6 mEq/L
   36 mg/dL
   109 mEq/L
   142 mEq/L
   23.9 %
   4.9 K/uL
        [image002.jpg]
                             [**2198-3-31**]  03:49 PM
                             [**2198-3-31**]  05:16 PM
                             [**2198-3-31**]  10:13 PM
                             [**2198-3-31**]  10:32 PM
                             [**2198-3-31**]  11:06 PM
                             [**2198-4-1**]  01:21 AM
                             [**2198-4-1**]  01:46 AM
                             [**2198-4-1**]  03:27 AM
                             [**2198-4-1**]  03:50 AM
                             [**2198-4-1**]  06:59 AM
   WBC
   4.9
   Hct
   21.7
   21.6
   23.9
   Plt
   33
   7
   7
   8
   5
   Cr
   0.9
   TCO2
   31
   29
   31
   30
   26
   Glucose
   158
   Other labs: PT / PTT / INR:17.6/36.3/1.6, T Bili:  5.3, D-dimer:4349
   ng/mL, Fibrinogen:191 mg/dL, FDP 10-40, Ca++:9.4 mg/dL, Mg++:2.2 mg/dL,
   PO4:1.3 mg/dL
   Assessment and Plan
   65-year-old man with known alcoholic cirrhosis, COPD admitted to an OSH
   with SOB now being transferred for further evaluation of hypoxia
   #. Acute hypoxic decompensation: CXRs have continued to worsen over the
   last 24-30 hours.  Picture is concerning for pulmonary edema vs.
   pulmonary hemorrhage or both.  O2 sats now in the 70s on maximum
   ventillatory support.  SBPs 75-80 on 2 pressors (levophed and
   vasopressin).
   - start neosynephrine for additional BP support
   - lasix 40 mg IV and lasix gtt to diurese
   - blood product support: PRBCs, FFP, platelets
   - will actively follow through-out the day.
   #. Hypoxia on presentation: Initially felt that multiple processes
   could be contributing: Cardiac shunt, PE, intrinsic lung disease,
   pneumonia, and HPS.  Initially got O2 sats >90% by keeping MAPs > 70
   with levophed and blood products.  MAP improves with platelets and FFP
   infusion.  Suggests that shunting may be playing a significant role.
   Hypoxia Most likely HPS with some cardiac shunting and L-sided PNA.  To
   address these different possible etiologies:
    - Cardiac shunt
 evidence for this with PFO on TTE on [**3-28**]. Right
   heart catheterization showed R to L shunt, probable PFO and
   hepatopulmonary syndrome contributing
   - HPS
 likely given underlying cirrhosis and suggested by shunt
   study.  Will f/u hepatology recs as below.  Consider starting
   pentyoxyphylline.
    - PE
 possible given patient
s prolonged OSH course.  Have deferred
   starting heparin given pending HIT Ab panel.  Prelim read on chest CT
   is no PE in central vessels, although limited study.
    - Intrinsic lung disease
 history of IPF from OSH notes, but does not
   appear so based on CXR.  Path from OSH biopsy now in [**State 5354**] and
   unobtainable for several days.  Does not appear to be significant IPF
   on chest CT.
    - Infection / PNA - has LLL infiltrate on CXR though cannot account
   for all of the patient
s hypoxia.
             - Cont. vanco/zosyn for HAP,
             - check induced sputum for PCP given [**Name9 (PRE) 4849**] steroid use.
             - Given torulopsis glabrata on bronchial washings, consider
   adding caspo or vori if decompensates
   - Patient still on FIO2 80% and not waking up this morning.  O2 sats
   still upper 80s to low 90s, not yet ready for extubation.
   #. Hypotension: Cause unclear this morning.  Most likely due to volume
   loss in the setting of bleeding, though could be a component of sepsis
   as well.
   - support with pressors as above.
   - support with blood products as above
   #. Thrombocytopenia: Unable to increase platelets despite multiple
   transfusions over the past 48+ hours.  HIT Ab neg here and at OSH.
   Smear unremarkable.  DIC labs negative.  Patient is already on steroids
   if ITP is contributing.  Trial yesterday suggests that antibodies may
   not necessarily be playing a role.  Hematology is following, their
   assistance is appreciated.
   - ABO matched (type B) platelets for now. Consider HLA matched
   platelets
   - Vancomycin was stopped [**3-30**].  Will stop zosyn [**3-31**] as possible
   medication effect could be contributing.
   - PPI changed to Ranitidine [**3-31**]
   - f/u heme recs
   #. Cirrhosis: Per OSH notes, patient with alcoholic cirrhosis.  Has low
   albumin and somewhat elevated INR.  Also with splenomegaly and
   thrombocytopenia.  At this time, appears mildy encephalopathic though
   not clear if this if hepatic in origin.  Patient with tender abdomen.
   Diagnostic para: c/w portal HTN, no SBP
   - lactulose/rifaximin
   - f/u hepatology recs: no new recs
   - Add direct/indirect bilirubin to labs
   #. Anemia: Likely multifactorial including marrow suppressions (EtOH),
   GIB (guaiac + at OSH) and possible deficiencies.  Hct 42 on initial
   presentation to OSH and between 38 and 40 until [**3-18**].  Unclear why the
   precipitous drop recently.  Retic count elevated (6.6), iron low, B12 &
   folate sufficient. DIC labs negative.  HIT as neg x2.   Peripheral
   smear not suggestive.
   - iron supplementation
   - guaiac pos stools, only on prophylactic anticoagulation
   - F/u bilirubin breakdown
   #. Altered mental status: Likely multifactorial with hyponatremia,
   hepatic enceph, hypoxia, infection, etc contributing.
   - Treat possible causes individually
   - CT head
   #. Hyponatremia: Improved from nadir of 129. Will trend.
   #. Renal failure: Baseline from OSH is ~1.0, now improved to 0.9.
   Likely elevated BUN/Cr ratio which may represent prerenal state and
   GIB.
   - Follow and try to determine baseline status
   #. Diarrhea: Was being treated as c.diff though toxin negative at OSH
   and again here x2. [**Month (only) 8**] have also been due to lactulose.
   - Hold on PO vanco or flagyl unless decompensates then resend for C.
   diff.
   #. COPD: Initially treated as primary diagnosis at time of admission to
   OSH. On steroid taper at OSH and appears to have received 50mg on day
   of transfer.
   - Continue taper
   - Albuterol/atrovent
   FEN: Cont TF, PRBCs and Plts as needed
   PPX: Pneumoboots; Ranitidine
   FULL CODE (in chart at OSH)
   HCP: [**Name (NI) 82**] [**Name (NI) 1015**] [**Telephone/Fax (1) 5330**]
   Dispo/Communication: ICU for now.  Patient has a grave prognosis given
   his acute decompensation this morning and low reserve.  Attempting to
   contact HCP to update on status.  Patient was referred to the [**Location (un) **] Organ Bank.  Case was discussed.  Patient was ruled out per
   clinical picture.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2198-4-1**] 03:23 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2198-3-28**] 01:20 AM
   Arterial Line - [**2198-3-28**] 02:35 PM
   Multi Lumen - [**2198-3-28**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2198-04-01 10:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Heme recs appreciated - platelet count post plt transfusion checked (33
   post --> 5 within 2 hrs). Received 4 packs platelets overnight. Being
   given ABO matched platelets. DIC labs negative.
   ETT advanced. Sputum sent.
   Got lasix at 3am, developed red frothy sputum suctioned from ETT
   associated with hypotension and desat
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2198-3-30**] 07:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-3-31**] 03:11 AM
   Infusions:
   Fentanyl - 35 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2198-4-1**] 03:49 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-1**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 120 (66 - 120) bpm
   BP: 84/54(66) {84/50(66) - 160/79(112)} mmHg
   RR: 12 (10 - 22) insp/min
   SpO2: 84%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
           Total In:
                                                                  3,166 mL
                                                                  1,525 mL
   PO:
           TF:
                                                                    932 mL
                                                                    374 mL
   IVF:
                                                                    533 mL
                                                                    149 mL
   Blood products:
                                                                  1,162 mL
                                                                    912 mL
   Total out:
                                                                  3,385 mL
                                                                  1,920 mL
   Urine:
                                                                  2,460 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -219 mL
                                                                   -395 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 700 (700 - 952) mL
   PC : 10 cmH2O
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%, Sao2 < 90%
   PIP: 11 cmH2O
   SpO2: 84%
   ABG: 7.49/33/45/29/2
   Ve: 21.2 L/min
   PaO2 / FiO2: 45
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: coarse breath sounds bilat, no wheeze
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   7 K/uL
   158 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.6 mEq/L
   36 mg/dL
   109 mEq/L
   142 mEq/L
   23.9 %
   4.9 K/uL
        [image002.jpg]
                             [**2198-3-31**]  05:16 PM
                             [**2198-3-31**]  10:13 PM
                             [**2198-3-31**]  10:32 PM
                             [**2198-3-31**]  11:06 PM
                             [**2198-4-1**]  01:21 AM
                             [**2198-4-1**]  01:46 AM
                             [**2198-4-1**]  03:27 AM
                             [**2198-4-1**]  03:50 AM
                             [**2198-4-1**]  06:43 AM
                             [**2198-4-1**]  06:59 AM
   WBC
   4.9
   Hct
   21.7
   21.6
   23.9
   Plt
   7
   7
   8
   5
   7
   Cr
   0.9
   TCO2
   31
   29
   31
   30
   26
   Glucose
   158
   Other labs: PT / PTT / INR:17.6/36.3/1.6, ALT / AST:46/76, Alk Phos / T
   Bili:126/5.3, Amylase / Lipase:71/, Differential-Neuts:97.1 %,
   Lymph:1.4 %, Mono:1.3 %, Eos:0.2 %, D-dimer:4349 ng/mL, Fibrinogen:191
   mg/dL, Lactic Acid:3.0 mmol/L, Albumin:2.3 g/dL, LDH:522 IU/L, Ca++:9.4
   mg/dL, Mg++:2.2 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
   65 yo male with cirrhosis now admit with hypoxemic respiratory failure
   in the setting of what appears to be left sided pneumonia, no evidence
   of PE, PFO but no active R->L shunt at catheterization yesterday and
   concern for persistent hepatopulmonary syndrome but with limited
   capacity to evaluate further.  What we are left with is a significant
   persistent oxygen requirement and this is driven by intrapulmonary
   shunt in large part with pneumonia, atelectasis and some component of
   hepato-pulmonary syndrome.  The pneumonia and atelectasis may well be
   dynamic and will work to optimize status as we move to try extubation.
   1)Hypoxemic Respiratory Failure-  Secondary to above
   - sats decreased furthur this morning in the setting of suctioned
   pink-frothy secretions and xray showing diffuse infiltrates/white out.
   - Zosyn to continue, off vanc due to thrombocytopenia
   - Will maintain on CMV with slightly higher PEEPs given CHF vs alveolar
   hemorrhage vs less likely new infection
    2) Acute blood loss anemia
   - No evidence of hemolysis, checking repeat smear
   - appears to have bloody ETT secretions
   - Did have paracentesis [**3-30**] and there was concern for IP bleeding but
   not suggested on CT scan 3/28which did not show RP bleeding
   3) Acute thrombocytopenia
   - refractory to transfusions, ? ITP vs HIT unlikely
   - appreciate heme recs. platelets are ABO matched, will need HLA
   matched
   - on steroids for COPD but may require higher doses
   - Zosyn and Vanc were d/c'd
   - switch PPI to H2 blocker
    4) Cirrhosis-
   -Lactulose/Rifax for MS
   [**Name13 (STitle) 5378**] up OB pos stools
   - Ascites without evidence of infection
   5) Shock
   - question of sedation vs less likely hemorrhagic/hypovolemic
   - being transfused plat, FFP and PRBC x 1
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2198-4-1**] 03:23 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2198-3-28**] 01:20 AM
   Arterial Line - [**2198-3-28**] 02:35 PM
   Multi Lumen - [**2198-3-28**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments: HCP (neighbor) was called
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill